US07390904B2
Bis(1-octadecyloxy-2,2,6,6-tetramethylpiperidin-4-yl) succinate
The title compound is prepared from the reaction of bis(1-oxyl-2,2,6,6-tetramethylpiperidin-4-yl) succinate and octadecane following a procedure similar to that of Example 4.

reactant | bis(1-oxyl-2,2,6,6-tetramethylpiperidin-4-yl) succinate | C(CCC(=O)OC1CC(N(C(C1)(C)C)O)(C)C)(=O)OC1CC(N(C(C1)(C)C)O)(C)C | C22H40N2O6
reactant | octadecane | CCCCCCCCCCCCCCCCCC | C18H38
product | Bis(1-octadecyloxy-2,2,6,6-tetramethylpiperidin-4-yl) succinate | C(CCC(=O)OC1CC(N(C(C1)(C)C)OCCCCCCCCCCCCCCCCCC)(C)C)(=O)OC1CC(N(C(C1)(C)C)OCCCCCCCCCCCCCCCCCC)(C)C | C58H112N2O6
